US07572809B2
Similar procedure as described in example 10 was used, starting from 3-methoxy-phenol and (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine to give [1-(3-methoxy-phenoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 347(MH+).

reactant | 3-methoxy-phenol | COC=1C=C(C=CC1)O | C7H8O2
reactant | (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC(=C1)C | C13H11ClN4
product | [1-(3-methoxy-phenoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | COC=1C=C(OC2=NC(=CC3=CC=CC=C23)NC2=NNC(=C2)C)C=CC1 | C20H18N4O2
